* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG1233.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
V4 N004 0 PULSE(0 5 0 20n 20n 10u 20u)
V3 N005 0 0
V5 N001 0 12
V6 N003 0 6
R1 N002 0 300
C1 N002 0 35p
X§U1 N004 N001 N002 N003 N005 -V 0 +V ADG1233
.tran 120u
.lib ADG1233.sub
.backanno
.end
